US07229999B2
Step 2: 5-Bromo-N-(trans-2-hydroxy-cyclohexyl)-6-(2-methoxy-ethoxy)-nicotinamide
The title compound was synthesised in analogy to the amide coupling procedure described for the synthesis of Example 1, from 5-bromo-6-(2-methoxy-ethoxy)-nicotinic acid and trans-2-amino-cyclohexanol (commercially available). MS (m/e): 373.1 (MH+).

reactant | 5-bromo-6-(2-methoxy-ethoxy)-nicotinic acid | BrC=1C(=NC=C(C(=O)O)C1)OCCOC | C9H10BrNO4
reactant | trans-2-amino-cyclohexanol | N[C@H]1[C@@H](CCCC1)O | C6H13NO
product | 5-Bromo-N-(trans-2-hydroxy-cyclohexyl)-6-(2-methoxy-ethoxy)-nicotinamide | BrC=1C(=NC=C(C(=O)N[C@H]2[C@@H](CCCC2)O)C1)OCCOC | C15H21BrN2O4
